US05464861
A stirred solution of methyl 2-acetoxy-4-bromomethylbenzoate (Regnier G, Canevari R, Le Douarec J-C, Bull. Soc. Chim. Fr, 1966:2821) (10.7 g) and hexamethylenetetramine (17.1 g) in CHCl3 (150 mL) was refluxed for 5 hours, then the solvent was removed (method of Meindl W, v Angerer E, Ruckdeschel G, Schonenberger H, Arch. Pharm. (Weinheim) 1982;315:941). The residue was stirred with MeOH (60 mL) and concentrated HCl (30 mL) at 20° C. for 10 minutes, then the solvent removed. Treatment of the solid residue twice more with HCl/MeOH and evaporation gave a solid, which was washed with CH2Cl2, then treated with saturated KHCO3 solution. The base was extracted with EtOAc and CH2Cl2, then the solvents removed. The crude hydrochloride salt (5.30 g, 70% pure) was precipitated from an ethereal solution of the base upon the addition of HCl gas. A subsample of the above crude base was purified by chromatography on silica gel, eluting with EtOAc/light petroleum (1:2). Acidification of a solution of the purified base gave pure methyl 4-(aminomethyl) -2-hydroxybenzoate hydrochloride; mp (CH2Cl2 /light petroleum) 225°-227° C.

reactant | methyl 2-acetoxy-4-bromomethylbenzoate | 10.7 g | C(C)(=O)OC1=C(C(=O)OC)C=CC(=C1)CBr | C11H11BrO4
reactant | hexamethylenetetramine | 17.1 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | CHCl3 | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl 4-(aminomethyl) -2-hydroxybenzoate hydrochloride | Cl.NCC1=CC(=C(C(=O)OC)C=C1)O | InChI=1S/C9H11NO3.ClH/c1-13-9(12)7-3-2-6(5-10)4-8(7)11;/h2-4,11H,5,10H2,1H3;1H
